US08440689B2
B. tert-Butyl (1S,2R)-2-(6-(2,4-dimethoxybenzyl)-5-oxo-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-2-ylamino)cyclohexylcarbamate
A mixture of methyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate (500 mg, 1.065 mmol) and selenium dioxide (236 mg, 2.130 mmol) in dioxane (10 mL) was heated at 100° C. for 24 h. The solution was subsequently cooled and filtered. The filtrate was concentrated under reduced pressure and dried to give a brown foam (534 mg; dihydroxyl form was observed via mass spectroscopy), which was used directly in the next step without further purification. A mixture of the unpurified intermediate (534 mg, 1.065 mmol) and (2,4-dimethoxyphenyl)methanamine (0.160 mL, 1.065 mmol) in MeOH (10 mL) was stirred at RT for 10 min, after which sodium cyanoborohydride (100 mg, 1.597 mmol) was added, and the reaction mixture was stirred at RT for 20 h. The reaction mixture was warmed to 50° C. and stirred for an additional 2 h to complete the reaction. The mixture was cooled to RT and the solid filtered and washed with MeOH to give the title compound as a pinkish solid (237 mg, 37%). [M+H] calc'd for C33H42N6O5, 603. found, 603.

reactant | methyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate | 1.065 mmol, 500 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)C)C(=O)OC)NC=1C=C(C=CC1)C | C25H35N5O4
reactant | selenium dioxide | 2.130 mmol, 236 mg | [Se](=O)=O | O2Se
reactant | (2,4-dimethoxyphenyl)methanamine | 1.065 mmol, 0.160 mL | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | sodium cyanoborohydride | 1.597 mmol, 100 mg | C(#N)[BH3-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
product | tert-Butyl (1S,2R)-2-(6-(2,4-dimethoxybenzyl)-5-oxo-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-2-ylamino)cyclohexylcarbamate | 237 mg, 37% | COC1=C(CN2CC=3N=C(N=C(C3C2=O)NC=2C=C(C=CC2)C)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)C=CC(=C1)OC | C33H42N6O5
